US03984552
To a solution of 2-methyl-2-phenyl-4-allyl-5-hydroxy-6,7-dichloro-1-indanone (8.2 g., 0.024 mole) in dichloromethane (80 ml.) is added sodium acetate (150 mg.) and 40% peracetic acid (6 ml.). The reaction is stirred at 25°C. for 12 days during which time two 1 ml. portions of 40% peracetic acid are added at four day intervals. The reaction mixture is washed with water, aqueous sodium bicarbonate and brine. The solvent is distilled at reduced pressure and the residual oil is heated at 120°C. for 20 minutes affording 4,5-dichloro-2-hydroxymethyl-6-oxo-7-phenyl-1,2,7,8-tetrahydro-6H-indeno-[5,4-b]-furan (α-isomer) which is used in the next step without further purification.

reactant | 2-methyl-2-phenyl-4-allyl-5-hydroxy-6,7-dichloro-1-indanone | 0.024 mole, 8.2 g | CC1(C(C2=C(C(=C(C(=C2C1)CC=C)O)Cl)Cl)=O)C1=CC=CC=C1 | C19H16Cl2O2
reactant | sodium acetate | 150 mg | C(C)(=O)[O-].[Na+]
reactant | peracetic acid | 6 ml | C(C)(=O)OO | C2H4O3
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 4,5-dichloro-2-hydroxymethyl-6-oxo-7-phenyl-1,2,7,8-tetrahydro-6H-indeno-[5,4-b]-furan | ClC1=C(C=2C(C(CC2C2=C1OC(C2)CO)C2=CC=CC=C2)=O)Cl | C18H14Cl2O3
